US04276304
6.4 g of sodium are added to 250 ml of anhydrous methanol, and 50 g of 2,3,4-trimethoxybenzaldehyde and 54.4 g of 2-nitropropane are added dropwise thereto at 15° C. for 40 minutes under stirring. The mixture is stirred at 25° C. for 24 hours, and 17 ml of acetic acid and 20 ml of methanol are added to said mixture under ice-cooling. The mixture is evaporated to remove solvent, and the residue is extracted with benzene. The extract is washed with water, an aqueous sodium bisulfite solution, water and a saturated sodium chloride solution, successively. The washed extract is dried and then evaporated to remove solvent. 63 g of 1-(2,3,4-trimethoxyphenyl)-2-methyl-2-nitropropanol are thereby obtained as a pale yellow oil.

reactant | sodium | 6.4 g | [Na] | Na
reactant | 2,3,4-trimethoxybenzaldehyde | 50 g | COC1=C(C=O)C=CC(=C1OC)OC | C10H12O4
reactant | 2-nitropropane | 54.4 g | [N+](=O)([O-])C(C)C | C3H7NO2
solvent | methanol | 20 ml | CO | CH4O
solvent | acetic acid | 17 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 250 ml | CO | CH4O
product | 1-(2,3,4-trimethoxyphenyl)-2-methyl-2-nitropropanol | 63 g | COC1=C(C=CC(=C1OC)OC)C(C(C)([N+](=O)[O-])C)O | C13H19NO6
